US08476253B2
tert-Butyl [4-(4-aminophenyl)-4-oxobutyl]methylcarbamate
4-Bromo-N,N-bis(trimethylsilyl)aniline (1.64 mL, 5.82 mmol) was dissolved in tetrahydrofuran (9 mL), and a 1.6 N n-butyllithium-hexane solution (3.23 mL, 5.33 mmol) was added at −78° C. A solution of tert-butyl {4-[methoxy(methyl)amino]-4-oxobutyl}methylcarbamate (1.26 g, 4.85 mmol) in tetrahydrofuran (9 mL) was further added at −78° C. The temperature was increased to room temperature, water (2 mL) was added, then 1 N tetrabutylammonium fluoride (10 mL, 10 mmol) was added, and the mixture was stirred at room temperature for 2 hours. A saturated aqueous sodium hydrogencarbonate solution was added, then the mixture was extracted with dichloromethane and ethyl acetate, and the organic layers were combined and dried with anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (elution solvents, hexane:ethyl acetate=4:1→2:1, v/v) to give the title compound (1.32 g; yield, 71%).

reactant | 4-Bromo-N,N-bis(trimethylsilyl)aniline | 5.82 mmol, 1.64 mL | BrC1=CC=C(N([Si](C)(C)C)[Si](C)(C)C)C=C1 | C12H22BrNSi2
reactant | tert-butyl {4-[methoxy(methyl)amino]-4-oxobutyl}methylcarbamate | 4.85 mmol, 1.26 g | CON(C(CCCN(C(OC(C)(C)C)=O)C)=O)C | C12H24N2O4
reactant | tetrabutylammonium fluoride | 10 mmol, 1 N, 10 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | tert-Butyl [4-(4-aminophenyl)-4-oxobutyl]methylcarbamate | 1.32 g, 71% | NC1=CC=C(C=C1)C(CCCN(C(OC(C)(C)C)=O)C)=O | C16H24N2O3
